US08871782B2
Isopropyl isocyanate (2.05 mL, 20.9 mmol) was added to a stirred suspension of (2-amino-2-methylpropyl)(7-benzyloxy-3-nitroquinolin-4-yl)amine (prepared as described in Part A of Example 45, 6.95 g, 19.0 mmol) in dichloromethane (200 mL) at 0° C. After approximately 30 minutes, the reaction mixture was allowed to warm to room temperature and was stirred overnight. The solvent was removed under reduced pressure to afford 8.49 g of N-(2-{[7-(benzyloxy)-3-nitroquinolin-4-yl]amino}-1,1-dimethylethyl)-N′-isopropylurea.

reactant | Isopropyl isocyanate | 20.9 mmol, 2.05 mL | C(C)(C)N=C=O | C4H7NO
reactant | (2-amino-2-methylpropyl)(7-benzyloxy-3-nitroquinolin-4-yl)amine | NC(CNC1=C(C=NC2=CC(=CC=C12)OCC1=CC=CC=C1)[N+](=O)[O-])(C)C | C20H22N4O3
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | N-(2-{[7-(benzyloxy)-3-nitroquinolin-4-yl]amino}-1,1-dimethylethyl)-N′-isopropylurea | 8.49 g | C(C1=CC=CC=C1)OC1=CC=C2C(=C(C=NC2=C1)[N+](=O)[O-])NCC(C)(C)NC(=O)NC(C)C | C24H29N5O4
